US07105507B2
1,1-Dimethylethyl 4-(2-Propenyl)-4-(2-propenyloxy)-1-piperidinecarboxylate
Sodium hydride (60% dispersion in mineral oil, 12 g, 0.3 mol) was added slowly to a stirred, cooled (0° C.) solution of 1,1-dimethylethyl 4-hydroxy-4-(2-propenyl)-1-piperidinecarboxylate (Description 129, 23.1 g, 0.096 mol) in dimethylformamide (200 mL) and the mixture was stirred at 0° C. for 10 minutes. Allyl bromide (25.4 ml, 0.3 mol) was added and the mixture was stirred at 0° C. for 5 minutes, then at room temperature for 45 minutes. The mixture was cooled to 0° C. and water (200 mL) was added. The mixture was extracted with diethyl ether (2×200 mL) and the combined organic fractions were washed with water (4×200 mL) and brine (150 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (9:1), to give the title compound (5.5 g, 20%). m/z (E) 226 (M+1-C4H8).

reactant | Sodium hydride | 0.3 mol, 12 g | [H-].[Na+]
reactant | 1,1-dimethylethyl 4-hydroxy-4-(2-propenyl)-1-piperidinecarboxylate | 0.096 mol, 23.1 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)CC=C | C13H23NO3
reactant | Allyl bromide | 0.3 mol, 25.4 ml | C(C=C)Br | C3H5Br
reactant | water | 200 mL | O | H2O
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 4-(2-Propenyl)-4-(2-propenyloxy)-1-piperidinecarboxylate | 5.5 g, 20% | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)OCC=C | C16H27NO3
